US04590201
A stirred, ambient temperature solution of 1-(4-chlorobenzoyl)-2-chloro-4,6-dimethylbenzene (6.90 g, 24.7 mmol) in dry carbontetrachloride (200 ml) was treated with N-bromosuccinimide (4.40 g, 24.7 mmol) and benzoylperoxide (250 mg, 1.03 mmol). The mixture was refluxed 4 hours, cooled to 0° C., and filtered. The precipitate was washed with carbon tetrachloride and the combined filtrate and wash were evaporated to dryness at 40° C. under vacuum. The oily residue was dissolved in dichloromethane (150 ml) treated with tetramethylguanidinium azide (8.1 g, 51.2 mmol), and stirred 20 minutes at ambient temperature. The solvent was evaporated under vacuum and the semisolid residue was triturated with diethyl ether (200 ml) and filtered. The solid was washed well with diethyl ether, and the combined filtrates and washes were extracted with water (2×150 ml) and brine (200 ml), dried over anhydrous magnesium sulfate, and evaporated to dryness under vacuum. The residue was triturated with hexane (400 ml), decanted, and evaporated under vacuum at 30° C. The residual oil was chromatographed on silica gel (500 g) eluted with 93:7 (v/v) hexane-ethyl acetate using a preparative high performance liquid chromatograph to provide 2.2 g (28%) oily 3-chloro-4-(4-chlorobenzoyl)-5-methylbenzyl azide [I.R. (neat): 2110, 1680 cm-1 ; 60 MHz 'H NMR (CDCl3): 2.17 (3H), 4.33 s (2H), 7.14 m (1H), 7.23 m (1H), 7.41 dm (J=9 Hz, 2H), 7.74 dm (J=9 Hz, 2H)] and 2.4 g (30%) oily 3-chloro-2-(4-chlorobenzoyl)-5-methylbenzyl azide [IR (neat): 2105, 1670 cm-1 ; 60 MHz 'H NMR (CDCl3): 2.39 s (3H), 4.23 s (2H), 7.17 s (1H), 7.21 s (1H), 7.40 dm (J=9 Hz, 2H), 7.75 dm (J=9Hz, 2 H)].

reactant | 1-(4-chlorobenzoyl)-2-chloro-4,6-dimethylbenzene | 24.7 mmol, 6.90 g | ClC1=CC=C(C(=O)C2=C(C=C(C=C2C)C)Cl)C=C1 | C15H12Cl2O
reactant | N-bromosuccinimide | 24.7 mmol, 4.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 1.03 mmol, 250 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | tetramethylguanidinium azide | 51.2 mmol, 8.1 g | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | carbontetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-4-(4-chlorobenzoyl)-5-methylbenzyl azide | 2.2 g, 28% | ClC=1C=C(CN=[N+]=[N-])C=C(C1C(C1=CC=C(C=C1)Cl)=O)C | C15H11Cl2N3O
